US06573289B1
Production of 1-(6-Ethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
(6-ethoxynaphthalen-2-yl)(1-trityl-1H-imidazol-4-yl)ketone (3.0 g) was dissolved in THF (45 ml). To the solution was added dropwise a solution of isopropylmagnesium chloride in THF (2 M, 4 ml) under ice cooling. The reaction mixture was stirred at room temperature for 30 min. To the mixture were added saturated aqueous solution of ammonium chloride (20 ml) and water (20 ml), and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution, dried and concentrated. The residue was crystallized from ethyl acetate-diisopropyl ether to give the titled compound (1.72 g) as a colorless powder. Mother liquor was purified by silica gel chromatography (eluent, hexane-ethyl acetate=1:2) to give the titled compound (0.43 g).

reactant | (6-ethoxynaphthalen-2-yl)(1-trityl-1H-imidazol-4-yl)ketone | 3.0 g | C(C)OC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H28N2O2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
reactant | water | 20 ml | O | H2O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 2 M, 4 ml | C1CCOC1 | C4H8O
product | 1-(6-Ethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.72 g | C(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C19H22N2O2
